US03994954
A solution of 20.2 g. (0.070 mol.) of N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester and 8.8 g. (0.075 mol.) of indole in 300 ml. of toluene was slowly distilled over a 30 minutes interval with periodic replacement of the toluene with fresh solvent. After an additional 45 minutes the reaction mixture was cooled and the solvent was evaporated in vacuo. The residue was triturated with hexane to give α-(N-t-butoxycarbonylamino)indole-3-acetic acid n-butyl ester, m.p. 127°-128° (ether-hexane).

reactant | N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester | 0.070 mol | C(CCC)OC(C(NC(=O)OC(C)(C)C)OC(C)=O)=O | C13H23NO6
reactant | indole | 0.075 mol | N1C=CC2=CC=CC=C12 | C8H7N
product | α-(N-t-butoxycarbonylamino)indole-3-acetic acid n-butyl ester | C(CCC)OC(C(C1=CNC2=CC=CC=C12)NC(=O)OC(C)(C)C)=O | C19H26N2O4
